US08026234B2
4-(9-Cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-2-fluoro-5-methoxybenzoic acid:
2-Chloro-9-cyclopentyl-7,7-difluoro-5-methyl-8,9-dihydro-5H-pyrimido[5,4-b][1,4]diazepin-6(7H)-one (158 mg, 0.5 mmol), 4-amino-2-fluoro-5-methoxy benzoic acid (obtained above), i-PrOH (5 mL) and conc. HCl (10 drops) were heated to 100° C. overnight. The reaction mixture was then cooled to room temperature. The reaction mixture contains desired product plus lots of de-carboxylation byproduct, which were separated by RP-HPLC to give the product as a white solid (12 mg). [M+H] calc'd for C21H22F3N5O4, 466. found 466.

reactant | 2-Chloro-9-cyclopentyl-7,7-difluoro-5-methyl-8,9-dihydro-5H-pyrimido[5,4-b][1,4]diazepin-6(7H)-one | 0.5 mmol, 158 mg | ClC=1N=CC=2N(C(C(CN(C2N1)C1CCCC1)(F)F)=O)C | C13H15ClF2N4O
reactant | 4-amino-2-fluoro-5-methoxy benzoic acid | NC1=CC(=C(C(=O)O)C=C1OC)F | C8H8FNO3
catalyst | HCl | 10 drops | Cl | ClH
solvent | i-PrOH | 5 mL | CC(C)O | C3H8O
product | 4-(9-Cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-2-fluoro-5-methoxybenzoic acid | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=CC(=C(C(=O)O)C=C2OC)F | C21H22F3N5O4
